US07214673B2
(S)-2-(4-Phenyl-butyl)-piperazine
Combine (S)-1,4-dibenzyl-2-(4-phenyl-but-3-enyl)-piperazine (2.12 g, 5.3 mmol), 10% Pd/C (300 mg, 0.027 mmol) and ammonia formate (1.67 g, 26.5 mmol) in EtOH (50 mL), heat to reflux for 3 hours 30 minutes, and cool to room temperature. Remove the catalyst via filtration, and concentrate the filtrate to a residue. Purification by flash chromatography on silica gel using 2N NH3 in MeOH and dichloromethane (5%–15%) to give the title compound (780 mg, yield 67%): mass spectrum (Electrospray): m/z=219.2 (M+1); 1H NMR (CDCl3): δ7.30–7.15 (m, 5H), 2.96–2.55 (m, 8H), 2.37–2.30 (m, 1H), 1.64–1.60 (m, 2H), 1.39–1.29 (m, 4H).

reactant | (S)-1,4-dibenzyl-2-(4-phenyl-but-3-enyl)-piperazine | 5.3 mmol, 2.12 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC=CC1=CC=CC=C1 | C28H32N2
reactant | ammonia formate | 26.5 mmol, 1.67 g | C(=O)O.N
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 0.027 mmol, 300 mg | [Pd] | Pd
product | (S)-2-(4-Phenyl-butyl)-piperazine | 780 mg, yield 67% | C1(=CC=CC=C1)CCCC[C@@H]1NCCNC1 | C14H22N2
